US07714126B2
With a procedure similar to example 16 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-((R)-2-methoxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and 6-((R)-2-methoxymethyl-pyrrolidin-1-yl)-pyridin-3-ylamine. LCMS calcd for C22H21F3N4O3 (m/e) 446, obsd 447 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 6-((R)-2-methoxymethyl-pyrrolidin-1-yl)-pyridin-3-ylamine | COC[C@@H]1N(CCC1)C1=CC=C(C=N1)N | C11H17N3O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-((R)-2-methoxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-amide | COC[C@@H]1N(CCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C22H21F3N4O3
